simulator lang=spectre
global 0

ahdl_include "dut.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0
Vsig (measured_voltage 0) vsource type=pwl wave=[ 0 0.05 25n 0.3 55n 0.55 85n 0.8 120n 0.15 ]

XDUT (measured_voltage vdd vss inside_window below_window above_window) v2_ext_window_detector_019

tran tran stop=120n maxstep=500p
save measured_voltage inside_window below_window above_window
